### ISSUE TITLE
`String.Pos.Raw.extract` model/runtime mismatch and use-after-free

### ISSUE THREAD

**Issue by MarcIlunga** [leanprover/lean4#14684]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`String.Pos.Raw.extract` gives different results in its [`Lean definition`](https://github.com/leanprover/lean4/blob/f3b06c705e6c85f5314019d5d3baab0fec5b580c/src/Init/Data/String/Basic.lean#L3012-L3022) and [`C++ runtime`](https://github.com/leanprover/lean4/blob/f3b06c705e6c85f5314019d5d3baab0fec5b580c/src/runtime/object.cpp#L2373-L2394). For `extract "too narrow" 4 (2^63)`, Lean returns `"narrow"`, but compiled code returns `"too narrow"`. The C++ branch returns its borrowed input `s` as an owned result, which also causes use-after-free.

The issue was discovered with GPT 5.6.

### Context

This is related to #9439 (`String.prev`) and #9440 (`String.next`). Unlike #9440, this function returns a borrowed heap object as an owned `String`, so the same mismatch also has a runtime safety consequence.

### Steps to Reproduce

```lean
def marvelousProof : String := "a truly marvelous proof"
def marginStart : String.Pos.Raw := ⟨2^63⟩
def marginEnd : String.Pos.Raw := ⟨2^63 + 1⟩

theorem flt
    (a b c n : Nat) (hn : 2 < n) (ha : 0 < a) (hb : 0 < b) (hc : 0 < c) :
    a ^ n + b ^ n ≠ c ^ n :=
  -- The one-byte margin is too narrow to contain the proof.
  have tooNarrow :
      String.Pos.Raw.extract marvelousProof marginStart marginEnd = "" := rfl
  -- Native execution fits the entire proof into it anyway.
  have proofFits :
      String.Pos.Raw.extract marvelousProof marginStart marginEnd = marvelousProof := by
    native_decide
  -- Fermat's proof fits after all.
  absurd (tooNarrow.symm.trans proofFits) (by decide)

#print axioms flt
```

**Expected behavior:** `extract marvelousProof marginStart marginEnd` evaluates to `""` both definitionally and at runtime.

**Actual behavior:** Native evaluation returns `marvelousProof`, so the entire proof fits in the one-byte margin and Lean accepts `flt`. `#print axioms flt` shows the generated native-decision axiom.

### Versions

`Lean (version 4.32.2, arm64-apple-darwin24.6.0, commit f3b06c705e6c85f5314019d5d3baab0fec5b580c, Release)`. Also reproduced on Lean 4.33.0-rc2.

### Additional Information

The ownership violation is independently reproducible using safe Lean source. Save this as `UAF.lean`:

```lean
def hugeEnd : String.Pos.Raw := ⟨2^70⟩
@[noinline] def trim (s : String) := String.Pos.Raw.extract s ⟨1⟩ hugeEnd
@[noinline] def heap (s : String) := s ++ "-heap-padding"

def fill : Nat → Array String → Array String
  | 0, a => a
  | n+1, a => fill n (a.push (heap (toString (n % 10))))

def main (args : List String) : IO Unit := do
  let stale := trim (heap args[0]!)
  let replacements := fill 64 #[]
  IO.println (replacements[63]! ++ "|" ++ stale)
```

Run:
```sh
lean -c UAF.c UAF.lean
leanc -o UAF UAF.c
./UAF A
```

It repeatedly prints `0-heap-padding|0-heap-padding`. The second value should be `"-heap-padding"`; it instead aliases the unrelated replacement allocation.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
